US06890942B2
3-Hydroxy-4-(1-methyl-1H-imidazole-4-sulfonylamino)-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with 1-methyl-1H-imidazole-4-sulfonic acid amide as described in the preparation of compound 1 to yield the title compound. 1H NMR (500 MHz, CDCl3) δ: 3.63 (s, 3), 3.83 (s, 3), 4.75 (s, 2), 6.40 (s, 1), 7.02 (m, 2), 7.27 (m, 2), 7.74 (s, 1), 7.80 (s, 1). 13C NMR (125 MHz, CDCl3) δ: 34.75, 48.21, 63.10, 92.33, 115.65, 115.82, 127.65, 130.24, 130.34, 131.11, 136.85, 139.42, 159.30, 159.55, 161.67, 163.63, 170.81.

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | 1-methyl-1H-imidazole-4-sulfonic acid amide | CN1C=NC(=C1)S(=O)(=O)N | C4H7N3O2S
product | 3-Hydroxy-4-(1-methyl-1H-imidazole-4-sulfonylamino)-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C=2N=CN(C2)C)O)=O)OC)C=C1 | C16H17FN4O6S
